US08471005B2
1-Ethyl-3-{3-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-urea
To a solution of N-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-benzene-1,3-diamine (0.075 g, 0.22 mmol) in Methylene chloride (1.3 mL, 21 mmol) and Triethylamine (62.9 uL, 0.451 mmol) was added Ethane, isocyanato-(21.4 uL, 0.271 mmol) at 0° C. The reaction was stirred at 0° C. for 1 h. About 5% conversion. Allowed to stir at rt o/n—about 50% conversion. Heated to 50° C. for 3 hours and added additional 3.0 eq isocyanate. Reaction went to completion. Filtered off title compound as a beige ppt (34 mg, 35%). 1H NMR (400 MHz, (D3C)2SO, δ, ppm): 9.37 (s, 1H), 8.97 (s, 1H), 89.1 (j, J=2.3 Hz, 1 h), 8.55 (dd, J=8.7 Hz, 2.5 Hz, 1H), 8.29 (s, 1 h), 7.65 (s, 1H), 7.30 (d, J=8.1 Hz, 1H), 7.20 (d, J=4.6 Hz, 1H), 7.14 (dd, J=8.2 Hz, 8.2 Hz, 1H), 7.03 (d, J=8.6 Hz, 1H), 6.95 (d, J=4.8 Hz, 1H), 6.92 (d, J=8.4 Hz, 1H), 6.09 t, J=5.4 Hz, 1H) 3.92 (s, 3H), 3.09 (m, 2H), 1.04 (t, J=8.14 Hz, 3H). HPLC purity=90%, rt=2.029 min, LCMS=403.9 (M+H).

reactant | N-[7-(6-Methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-yl]-benzene-1,3-diamine | 0.22 mmol, 0.075 g | COC1=CC=C(C=N1)C1=CC=C2C=NC(=NN21)NC2=CC(=CC=C2)N | C18H16N6O
reactant | Methylene chloride | 21 mmol, 1.3 mL | C(Cl)Cl | CH2Cl2
reactant | Triethylamine | 0.451 mmol, 62.9 uL | C(C)N(CC)CC | C6H15N
reactant | Ethane | CC | C2H6
reactant | isocyanate | 3.0 eq | [N-]=C=O
product | 1-Ethyl-3-{3-[7-(6-methoxy-pyridin-3-yl)-pyrrolo[2,1-f][1,2,4]triazin-2-ylamino]-phenyl}-urea | C(C)NC(=O)NC1=CC(=CC=C1)NC1=NN2C(C=N1)=CC=C2C=2C=NC(=CC2)OC | C21H21N7O2
